US08242175B2
(E)-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride (160 mg, 0.376) was dissolved in THF (5 ml), and then HOBT (66.5 mg, 0.493 mmol), EDC (94.6 mg, 0.493 mmol), TEA (0.171 ml, 1.233 mmol) and NH2OTHP (47.6 mg, 0.411 mmol) were added to the resulting solution. The mixture was stirred overnight at room temperature and then partitioned between water and AcOEt. The organic extracts were dried over Na2SO4 and evaporated in vacuo. The crude mixture was dissolved in DCM and treated with HCl/Et2O for 2 h. The precipitate was filtered off to give 90 mg (E)-N-hydroxy-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylamide hydrochloride.

reactant | (E)-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride | 160 mg | Cl.CN1CCC(CC1)CC1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O
reactant | HOBT | 0.493 mmol, 66.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.493 mmol, 94.6 mg
reactant | NH2OTHP | 0.411 mmol, 47.6 mg | NOC1OCCCC1 | C5H11NO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (E)-N-hydroxy-3-(4-{(E)-3-[4-(1-methyl-piperidin-4-ylmethyl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylamide hydrochloride | 90 mg, Yield=54% | Cl.ONC(\C=C\C1=CC=C(C=C1)\C=C\C(=O)C1=CC=C(C=C1)CC1CCN(CC1)C)=O | InChI=1S/C25H28N2O3.ClH/c1-27-16-14-22(15-17-27)18-21-6-10-23(11-7-21)24(28)12-8-19-2-4-20(5-3-19)9-13-25(29)26-30;/h2-13,22,30H,14-18H2,1H3,(H,26,29);1H/b12-8+,13-9+;
